US07897626B2
2-Bromo-4-thiazolecarboxylic acid and 2-amino-4-methylbenzamide are reacted in analogy to the synthesis of intermediate III.2 to give N-[2-(aminocarbonyl)-5-methylphenyl]-2-bromo-4-thiazolecarboxamide (intermediate III.3).

reactant | 2-Bromo-4-thiazolecarboxylic acid | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | 2-amino-4-methylbenzamide | NC1=C(C(=O)N)C=CC(=C1)C | C8H10N2O
product | N-[2-(aminocarbonyl)-5-methylphenyl]-2-bromo-4-thiazolecarboxamide | NC(=O)C1=C(C=C(C=C1)C)NC(=O)C=1N=C(SC1)Br | C12H10BrN3O2S
